US08431563B2
5-((4-Bromo-3-methylphenyl)sulfonyl)-2-pyridinamine (377 mg, 1.15 mmol), bis(pinacolato)diboron (410 mg, 1.61 mmol, Sigma-Aldrich, St. Louis, Mo.), (1,1′-bis(diphenylphosphino)ferrocene)dichloropalladium (47 mg, 0.06 mmol, Strem Chemical Inc, Newburyport, Mass.), potassium acetate (339 mg, 3.46 mmol, Sigma-Aldrich, St. Louis, Mo.), and DMF (6 mL) were added to a reaction vial. The vial was closed, purged with nitrogen for several minutes, and heated at 80° C. for 16 h. After cooling to room temperature, the reaction mixture was diluted with water (10 mL) and extracted with EtOAc (20 mL). The organic extract was washed with saturated NaCl (5 mL) and dried over Na2SO4. The solution was filtered and concentrated in vacuo to give the crude material. This material was filtered though a short silica pad eluting with EtOAc to provide 5-((3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)sulfonyl)-2-pyridinamine (450 mg) as a tan solid that was used without further purification.

reactant | 5-((4-Bromo-3-methylphenyl)sulfonyl)-2-pyridinamine | 1.15 mmol, 377 mg | BrC1=C(C=C(C=C1)S(=O)(=O)C=1C=CC(=NC1)N)C | C12H11BrN2O2S
reactant | bis(pinacolato)diboron | 1.61 mmol, 410 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.46 mmol, 339 mg | C(C)(=O)[O-].[K+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 5-((3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)sulfonyl)-2-pyridinamine | 450 mg | CC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)S(=O)(=O)C=1C=CC(=NC1)N | C18H23BN2O4S
